US05859006
Ethyl 1,2,3,4-tetrahydro-1-(4-dimethylaminophenyl)-9H-pyrido[3,4-b]indole-3-carboxylate, mixture of cis and trans isomers
The same method but starting from racemic tryptophan ethyl ester and 4-dimethylaminobenzaldehyde gave the title compound as white crystals m.p.:170° C.

reactant | racemic tryptophan ethyl ester | C(C)OC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C13H16N2O2
reactant | 4-dimethylaminobenzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
product | Ethyl 1,2,3,4-tetrahydro-1-(4-dimethylaminophenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | CN(C1=CC=C(C=C1)C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OCC)C | C22H25N3O2
